US06943162B2
4-[2-({4-[[3-(4-chlorophenyl)propyl](methyl)amino]-6-[4-(2-hydroxyethyl)-1-piperazinyl]-1,3,5-triazin-2-yl}amino)ethyl]phenol
The title compound was prepared in 91% yield via the procedure outlined for Example 14 using 4-[2-({4-chloro-6-[[3-(4-chlorophenyl)propyl](methyl)amino]-1,3,5-triazin-2-yl}amino)ethyl]phenol and 1-(2-hydoxyethyl)piperazine to give a white solid: 1H NMR (CDCl3, 400 MHz) δ 7.23 (d, 2H, J=8.0), 7.10 (d, 2H, J=8.0), 7.09 (d, 2H, J=8.0), 6.67 (d, 2H, J=8.0), 4.88(s, br, 1H), 3.80-3.55 (m, 9H), 3.05 (s, br, 3H), 2.77 (t, 2H, J=6.6), 2.57-2.48 (m, 8H), 1.86 (s,br, 2H); low-resolution MS (ES+) m/e 526 (MH+); RP-HPLC (Capcell Pak C-18 25 cm×4.6 mm; 0-95% CH3CN in H2O with 0.1% TFA buffer; 30 minutes; 1 mL/min) tr=11.20 min, 99% purity.

reactant | 4-[2-({4-chloro-6-[[3-(4-chlorophenyl)propyl](methyl)amino]-1,3,5-triazin-2-yl}amino)ethyl]phenol | ClC1=NC(=NC(=N1)N(C)CCCC1=CC=C(C=C1)Cl)NCCC1=CC=C(C=C1)O | C21H23Cl2N5O
reactant | 1-(2-hydoxyethyl)piperazine | OCCN1CCNCC1 | C6H14N2O
reactant | CH3CN | CC#N | C2H3N
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | H2O | O | H2O
product | 4-[2-({4-[[3-(4-chlorophenyl)propyl](methyl)amino]-6-[4-(2-hydroxyethyl)-1-piperazinyl]-1,3,5-triazin-2-yl}amino)ethyl]phenol | 91% yield | ClC1=CC=C(C=C1)CCCN(C1=NC(=NC(=N1)N1CCN(CC1)CCO)NCCC1=CC=C(C=C1)O)C | C27H36ClN7O2
